data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1927,2135,[CH3:19][C:20](=[O:21])[CH:22]=[NH+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[C:24]([C:25]([CH3:26])=[O:27])([C:28]([CH3:29])=[O:30])[NH:23][CH:22]1[C:20]([CH3:19])=[O:21],water,298.15,34.10165359966365,12.731070312645237
3842,4396,[CH3:9][CH:10]=[NH+:11][C-:12]([C:13](=[O:14])[NH:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17](=[O:18])[O:19][CH3:20])[NH:11][CH:10]1[CH3:9],water,298.15,22.88408035865229,-15.12626788732729
3296,3735,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[O+:14][N-:15][C:16]#[N:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:15]([C:16]#[N:17])[O:14][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,13.396421652877873,-37.89392300403932
3599,4108,[CH3:9][NH:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([CH3:16])[C:17]([CH3:18])=[O:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([CH3:16])([C:17]([CH3:18])=[O:19])[N:14]=[C:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,11.252822548045565,-40.19753237087372
4469,5101,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([C:17]#[N:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,21.71682349325776,-13.129335665492786
42,49,[CH2-:9][N+:10]#[C:11][C:12](=[O:13])[NH:14][CH3:15].[F:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[CH2:9][N:10]=[C:11]2[C:12](=[O:13])[NH:14][CH3:15],water,298.15,15.297343111329251,-62.82762794856691
430,470,[CH3:1][C:2]#[C:3][O:4][CH3:5].[CH3:6][NH:7][C:8](=[O:9])[C-:10]([C:11]([CH3:12])=[O:13])[N+:14]([CH3:15])=[CH:16][C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C:2]1=[C:3]([O:4][CH3:5])[CH:16]([C:17](=[O:18])[O:19][CH3:20])[N:14]([CH3:15])[C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:11]([CH3:12])=[O:13],water,298.15,25.751866602100268,-47.20866479729936
1145,1244,[CH3:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([CH3:22])[n+:23]1[CH3:24].[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:17]1([C:15]([CH3:14])=[O:16])[O:18][C:19](=[O:20])[C:21]2([CH3:22])[N:23]1[CH3:24],water,298.15,43.02386812884429,7.978270212039289
1373,1510,[N:1]#[C:2][C:3]1([Cl:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1.[O-:12][NH+:13]=[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[N:1]#[C:2][C:3]1([Cl:4])[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[O:12][NH:13][C:14]2([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,18.93162894911379,-26.44964201364851
2368,2630,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([N+:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([CH3:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([CH3:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:26](=[O:27])[O:28][CH3:29])[N:24]=[N:25]2,water,298.15,27.06848943866509,-19.91956072080865
4246,4857,[CH3:10][O:11][C:12](=[O:13])[C-:14]([O+:15]=[CH:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[O:15][CH:16]1[C:17]#[N:18],water,298.15,8.852474967970373,-51.851472861929295
1722,1905,[CH2:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([C:12]#[N:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1>>[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([C:12]#[N:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH2:20][N:21]([CH3:22])[C:23]2([C:24]#[N:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,8.571543205159575,-40.06697328411916
